US06489476B1
A solution of 2,2′-dipyridyl disulfide (1 mmole) in THF was treated with tri-n-butylphosphine (1 mmole) and diethyl hydroxymethylphosphonate at 0° C. The resulting reaction solution was stirred at room temperature for 18 h. Extraction and chromatography gave 2-diethylphosphonomethylthiopyridine as a yellow oil.

reactant | 2,2′-dipyridyl disulfide | 1 mmole | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | tri-n-butylphosphine | 1 mmole | C(CCC)P(CCCC)CCCC | C12H27P
reactant | diethyl hydroxymethylphosphonate | OCP(OCC)(OCC)=O | C5H13O4P
solvent | THF | C1CCOC1 | C4H8O
product | 2-diethylphosphonomethylthiopyridine | C(C)OP(=O)(OCC)CSC1=NC=CC=C1 | C10H16NO3PS
